US07943669B2
Step A: {2-Methyl-4-[3-(3-morpholin-4-yl-prop-1-ynyl)-5-(3-trifluoromethyl-pyridin-2-yloxy)-phenylsulfanyl]-phenoxy}-acetic Acid Ethyl Ester
The title product was prepared from {4-[3-Bromo-5-(3-trifluoromethyl-pyridin-2-yloxy)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester (250 mg; 0.46 mmol) and 4-prop-2-ynyl-morpholine (173.09 mg; 1.38 mmol) applying the procedure described for {4-[3-[2-(4-Chloro-phenyl)-ethoxy]-5-(4-hydroxymethyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester. The crude product was purified by preparative HPLC (method B). Yield: 262 mg (97%). HPLC-MS: m/z: 587.5 (M+H)+; Rt: 2.03 min

reactant | {4-[3-Bromo-5-(3-trifluoromethyl-pyridin-2-yloxy)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | 0.46 mmol, 250 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OC1=NC=CC=C1C(F)(F)F)Br)C)=O | C23H19BrF3NO4S
reactant | 4-prop-2-ynyl-morpholine | 1.38 mmol, 173.09 mg | C(C#C)N1CCOCC1 | C7H11NO
reactant | {4-[3-[2-(4-Chloro-phenyl)-ethoxy]-5-(4-hydroxymethyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=C(C=C1)CO)OCCC1=CC=C(C=C1)Cl)C)=O | C34H31ClO5S
product | {2-Methyl-4-[3-(3-morpholin-4-yl-prop-1-ynyl)-5-(3-trifluoromethyl-pyridin-2-yloxy)-phenylsulfanyl]-phenoxy}-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OC1=NC=CC=C1C(F)(F)F)C#CCN1CCOCC1)C)=O | C30H29F3N2O5S
